US04072755
A mixture of 0.5 ml of thionyl chloride, 934 mg of capric acid and 4 ml of benzene was refluxed for 2 hours and then was evaporated to dryness to obtain capric acid chloride. The raw acid chloride was taken up in 5 ml of benzene and 1 ml of pyridine was added thereto. Then, a solution of 728 mg of ethyl 3'-(3'-α-hydroxy trans-1'-octenyl)-cyclopentane-2-carboxylate in 5 ml of benzene was slowly added to the mixture and after the addition of 66 mg of 4-dimethylaminopyridine, the mixture was stirred for 17 hours at 20° C. The mixture was poured into 1N hydrochloric acid and the mixture was extracted with ether. The ether extracts were washed with water, and aqueous sodium bicarbonate solution, dried and evaporated to dryness. The residue was chromatographed over silica gel and was eluted with an 8-2 cyclohexane-ethyl acetate mixture containing 0.1% of triethylamine to obtain 710 mg of ethyl (1RS, 5RS, 3'SR) (1'E) 2-oxo-5-(3'-decanoyloxy-1'-octenyl)-cyclopentanecarboxylate.

reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | capric acid | 934 mg | OC(=O)CCCCCCCCC | C10H20O2
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | capric acid chloride | C(=O)(CCCCCCCCC)Cl | C10H19ClO
